US07696223B2
e) [(7-Hydroxy-2-phenyl-thiazolo[5,4-c]pyridine-6-carbonyl)-amino]-acetic acid
A mixture of 7-hydroxy-2-phenyl-thiazolo[5,4-c]pyridine-6-carboxylic acid ethyl ester (31 mg, 0.10 mmol) and glycine (78 mg, 1.04 mmol) in 0.5 M sodium methoxide/methanol (1.7 mL) was heated at 120° C. using a CEM microwave reactor for 30 min before it was cooled to room temperature and concentrated in vacuo. The residue was dissolved in water (18 mL) and extracted twice with dichloromethane. The remaining aqueous layer was acidified to pH=3 with 1N HCl (1.2 mL). The resulting precipitate was filtered, washed with water and dried in vacuo to give the title compound as a yellow solid (25 mg): 1H NMR (DMSO-d6, 200 MHz): δ=13.30 (br s, 1H), 9.42 (t, 1H), 8.96 (s, 1H), 8.14 (m, 2H), 7.67 (m, 3H), 4.02 (d, J=6.2 Hz, 2H); MS: (+) m/z 330.0 (M+1).

reactant | 7-hydroxy-2-phenyl-thiazolo[5,4-c]pyridine-6-carboxylic acid ethyl ester | 0.10 mmol, 31 mg | C(C)OC(=O)C1=C(C2=C(C=N1)SC(=N2)C2=CC=CC=C2)O | C15H12N2O3S
reactant | glycine | 1.04 mmol, 78 mg | NCC(=O)O | C2H5NO2
solvent | sodium methoxide methanol | 0.5 M, 1.7 mL | C[O-].[Na+].CO
product | [(7-Hydroxy-2-phenyl-thiazolo[5,4-c]pyridine-6-carbonyl)-amino]-acetic acid | 25 mg | OC=1C2=C(C=NC1C(=O)NCC(=O)O)SC(=N2)C2=CC=CC=C2 | C15H11N3O4S
